US09303201B2
A mixture of 1.7 grams (5 mmol) of penta-n-butylguanidine (made as described earlier), 0.686 grams (5 mmol) of 1-bromobutane and 10 ml of isobutyronitrile was heated under reflux for 20 hours. Upon vacuum stripping, a pale yellow oil was obtained which crystallized to a pale brown solid upon standing. Upon recrystallization from a mixture of hexane and ethyl acetate, the desired N,N,N′,N′,N″,N″-hexa-n-butylguanidinium bromide was obtained as a white solid.

reactant | penta-n-butylguanidine | 5 mmol, 1.7 grams | C(CCC)N(C(N(CCCC)CCCC)=NCCCC)CCCC | C21H45N3
reactant | 1-bromobutane | 5 mmol, 0.686 grams | BrCCCC | C4H9Br
solvent | isobutyronitrile | 10 ml | C(C(C)C)#N | C4H7N
product | N,N,N′,N′,N″,N″-hexa-n-butylguanidinium bromide | [Br-].C(CCC)N(C(=[N+](CCCC)CCCC)N(CCCC)CCCC)CCCC | InChI=1S/C25H54N3.BrH/c1-7-13-19-26(20-14-8-2)25(27(21-15-9-3)22-16-10-4)28(23-17-11-5)24-18-12-6;/h7-24H2,1-6H3;1H/q+1;/p-1
